US06794403B2
Step a) N-(4-Chloro-2,5-dimethoxyphenyl)-3-fluoro-4-methoxybenzamide
The title compound was prepared in substantially the same manner as described in Example 1, step a, from 4-chloro-2,5-dimethoxyaniline, and 3-fluoro-4-methoxybenzoic acid and was obtained as a white solid, m.p. 197-199° C.; MS m/e 340 (M+H)+.

reactant | 4-chloro-2,5-dimethoxyaniline | ClC1=CC(=C(N)C=C1OC)OC | C8H10ClNO2
reactant | 3-fluoro-4-methoxybenzoic acid | FC=1C=C(C(=O)O)C=CC1OC | C8H7FO3
product | N-(4-Chloro-2,5-dimethoxyphenyl)-3-fluoro-4-methoxybenzamide | ClC1=CC(=C(C=C1OC)NC(C1=CC(=C(C=C1)OC)F)=O)OC | C16H15ClFNO4
